US06472386B1
Synthesis of 3,4,5-Trimethoxybenzothioamide
3,4,5-Trimethoxybenzamide (5.0 g) and 2,4-bis(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane-2,4-disulfide (5.24 g) were added to toluene, and the mixture was stirred at 70° C. After 5 hours, the reaction mixture was cooled back to room temperature, diluted with ethyl acetate, washed with saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was then purified by column chromatography on silica gel (hexane:ethyl acetate=1:1 to 1:2) to obtain yellow crystals, and the crystals were further recrystallized from ethyl acetate-hexane to obtain the title compound.

reactant | 3,4,5-Trimethoxybenzamide | 5.0 g | COC=1C=C(C(=O)N)C=C(C1OC)OC | C10H13NO4
reactant | 2,4-bis(4-methoxyphenyl)-1,3-dithia-2,4-diphosphetane-2,4-disulfide | 5.24 g | COC1=CC=C(C=C1)P1(SP(S1)(C1=CC=C(C=C1)OC)=S)=S | C14H14O2P2S4
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3,4,5-Trimethoxybenzothioamide | COC=1C=C(C(N)=S)C=C(C1OC)OC | C10H13NO3S
